US08114868B2
A mixture of 3-((R)-6-(4-fluorophenyl)-2-oxo-3-((S)-1-(4-(4,4,5,5-tetramethyl -1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile (100 mg, 0.21 mmol) and 4-iodo-1-methyl-1H-pyridin-2-one (40 mg, 0.17 mmol), Pd(PPh3)2Cl2 (20 mg), and aq. Cs2CO3 solution (2.0 mL, 2M) in 1,4-dioxane (5 mL) was stirred at reflux for 2 h. The organic phase was separated and concentrated to give the crude product, which was purified by preparative TLC to give 3-((R)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-2-oxo -1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile (55 mg, 66%). LC-MS Method 2 tR=1.096 min, m/z=488.3; 1H NMR (CDCl3): δ 1.27 (s, 3H), 1.40 (s, 3H), 1.48 (d, 3H), 2.06 (s, 2H), 2.23 (m, 1H), 2.41 (m, 2H), 2.90 (m, 1H), 3.51 (s, 3H), 5.60 (m, 1H), 6.27 (m, 1H), 6.65 (d, 1H), 6.89 (d, 2H), 6.99 (t, 2H), 7.26 (m, 5H).

reactant | 3-((R)-6-(4-fluorophenyl)-2-oxo-3-((S)-1-(4-(4,4,5,5-tetramethyl -1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | 0.21 mmol, 100 mg | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC(C#N)(C)C | C29H36BFN2O4
reactant | 4-iodo-1-methyl-1H-pyridin-2-one | 0.17 mmol, 40 mg | IC1=CC(N(C=C1)C)=O | C6H6INO
reactant | Cs2CO3 | 2M, 2.0 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-((R)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-2-oxo -1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | 55 mg, 66% | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)CC(C#N)(C)C | C29H30FN3O3
